US07011838B2
Using 0.16 g of 4-ethylbenzyl chloride, 3 ml of N,N-dimethylformamide, 0.05 g of sodium hydride (60% in oil), and 0.17 g of (3,3,3-trifluoropropyl)malononitrile, and according to the process described in the Production Example 26, there was obtained 0.14 g of 2-(4-ethylbenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (31)).

reactant | 4-ethylbenzyl chloride | 0.16 g | C(C)C1=CC=C(CCl)C=C1 | C9H11Cl
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | (3,3,3-trifluoropropyl)malononitrile | 0.17 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(4-ethylbenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.14 g, Yield: 50% | C(C)C1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C15H15F3N2
